US07338959B2
3-{4-[Methyl-(1-methyl-2-methylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-benzenesulfonamide
The title compound was prepared following the procedure of Example 1 with N5-(2-chloropyrimidin-4-yl)-N2,N5,1-trimethyl-1H-benzimidazole-2,5-diamine (60 mg, 0.20 mmol) and 3-amino-benzenesulfonamide (34 mg, 0.20 mmol) as a white solid (40 mg, 42%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.51 (s, 1H), 8.61 (s, 1H), 7.77-7.82 (M, 2H), 7.26-7.39 (m, 6H), 7.17 (s, 1H), 6.92 (d, J=7.8 Hz, 1H), 5.66 (d, J=6.0 Hz, 1H), 3.55 (s, 3H), 3.47 (s, 3H), 2.95 (d, J=4.2 Hz, 3H). MS (ESI) m/z=439 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2,N5,1-trimethyl-1H-benzimidazole-2,5-diamine | 0.20 mmol, 60 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC)C)C=C1)C | C14H15ClN6
reactant | 3-amino-benzenesulfonamide | 0.20 mmol, 34 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-{4-[Methyl-(1-methyl-2-methylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-benzenesulfonamide | CN(C1=NC(=NC=C1)NC=1C=C(C=CC1)S(=O)(=O)N)C1=CC2=C(N(C(=N2)NC)C)C=C1 | C20H22N8O2S
